US07135502B1
A solution of N-acetyl-colchicinol (0.357 g; 1 mmol), 4-nitrophenyl chloroformate (0.262 g; 1.3 mmol) and triethylamine (182 μl; 1.3 mmol) in dichloromethane (10 ml) was stirred, under argon atmosphere, at ambient temperature for 90 minutes. 4-(4-Aminobutyl)morpholine (0.237 g; 1.5 mmol) was then added and the mixture was further stirred for 4 hours. After evaporation to dryness the residue was purified by flash chromatography eluting with a gradient of 0–12% ethanol/dichloromethane to give (5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl N-(4-morpholinobutyl)carbamate as a white foam.

reactant | N-acetyl-colchicinol | 1 mmol, 0.357 g | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
reactant | 4-nitrophenyl chloroformate | 1.3 mmol, 0.262 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 1.3 mmol, 182 μl | C(C)N(CC)CC | C6H15N
reactant | 4-(4-Aminobutyl)morpholine | 1.5 mmol, 0.237 g | NCCCCN1CCOCC1 | C8H18N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl N-(4-morpholinobutyl)carbamate | Yield: 24% | O1CCN(CC1)CCCCNC(OC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1)=O | C29H39N3O7
